US05770594
7-Chloro-5-(1-naphthyl)-1-neopentyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzothiazepin-3-acetic acid (mixture of diastereomers)
A stirred mixture of 50.0 g (141 mmol) of (5-chloro-2-neopentylamino-phenyl)-naphthalen-1-yl-methanol, 27.58 g (184 mmol, 1.3 equivalents) of mercaptosuccinic acid, and 340 mL of propionic acid was heated to 130° C. with a nitrogen purge. After 48 hours, the reaction mixture was cooled to room temperature giving a precipitate, treated with 200 mL of water, cooled to -5° C. with stirring, and filtered giving 60.83 g (92% yield) of the title compound as an off white solid.

reactant | (5-chloro-2-neopentylamino-phenyl)-naphthalen-1-yl-methanol | 141 mmol, 50.0 g | ClC=1C=CC(=C(C1)C(O)C1=CC=CC2=CC=CC=C12)NCC(C)(C)C | C22H24ClNO
reactant | mercaptosuccinic acid | 184 mmol, 27.58 g, 1.3 equivalents | SC(C(=O)O)CC(=O)O | C4H6O4S
reactant | propionic acid | 340 mL | C(CC)(=O)O | C3H6O2
solvent | water | 200 mL | O | H2O
product | 7-Chloro-5-(1-naphthyl)-1-neopentyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzothiazepin-3-acetic acid | 60.83 g, 92% yield | ClC=1C=CC2=C(C(SC(C(N2CC(C)(C)C)=O)CC(=O)O)C2=CC=CC3=CC=CC=C23)C1 | C26H26ClNO3S
